US09328078B2
4,6-dibromobenzo[c][1,2,5]oxadiazole (0.3122 g, 1.12 mmol), pyrrolidine (0.10 mL, 1.12 mmol) and DIPEA (0.20 mL, 1.12 mmol) were dissolved in NMP (2 mL) under argon and stirred in a sealed tube at 100° C. overnight. Upon cooling to room temperature, the reaction was diluted with water and extracted with EtOAc. The combined organic layers were washed with H2O (5×), 1 N HCl (aq), saturated NaHCO3 (aq) and brine before drying with Na2SO4, filtering and concentrating to give the crude 6-bromo-4-(pyrrolidin-1-yl)benzo[c][1,2,5]oxadiazole (0.2247 g, 75% yield). The crude material (0.1964 g, 0.73 mmol) and 3-acetylbenzeneboronic acid (0.1558 g, 0.95 mmol) were added to a tube. The tube was evacuated and purged with argon (3×). 2 M Na2CO3 (1.1 mL, 2.21 mmol) and DME (1.6 mL) were added and the solution was degassed for 15 minutes. Pd(PPh3)4 (0.0422 g, 0.0365 mmol) was quickly added and the tube was heated at 100° C. overnight. Upon cooling to room temperature, the reaction was diluted with water and extracted with EtOAc. The combined organic layers were washed with H2O (5×), saturated NaHCO3 (aq) and brine before drying with Na2SO4, filtering and concentrating. The crude material was dissolved in methanol (12 mL) and cooled to 0° C. NaBH4 (0.0552 g, 1.46 mmol) was added and the mixture was stirred at 0° C. for 3 hours. The reaction mixture was quenched with saturated NaHCO3. This thick mixture was diluted with water and extracted with DCM (5×). The extracts were then dried (Na2SO4), filtered and concentrated. The crude material was purified via chromatography (30% EtOAc/Hexane) to afford 0.2029 g (90% yield, over 2 steps) of TRV-1310. 1H NMR (CDCl3) δ=7.65 (s, 1H), 7.55 (d, J=7.0 Hz, 1H), 7.47-7.42 (m, 2H), 7.07 (s, 1H), 6.11 (s, 1H), 5.00-4.99 (m, 1H), 3.81 (s, 4H), 2.12-2.09 (m, 4H), 1.92 (d, J=3.0 Hz, 1H), 1.56 (d, J=6.5 Hz, 3H).

reactant | 4,6-dibromobenzo[c][1,2,5]oxadiazole | 1.12 mmol, 0.3122 g | BrC1=CC(=CC2=NON=C21)Br | C6H2Br2N2O
reactant | pyrrolidine | 1.12 mmol, 0.10 mL | N1CCCC1 | C4H9N
reactant | DIPEA | 1.12 mmol, 0.20 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 6-bromo-4-(pyrrolidin-1-yl)benzo[c][1,2,5]oxadiazole | 0.2247 g, 75% yield | BrC=1C=C(C=2C(=NON2)C1)N1CCCC1 | C10H10BrN3O
